US03966930
325 grams of 2-bromo-5-fluoroaniline were dissolved in 300 milliliters of concentrated hydrochloride acid (d = 1.2 grams/ml) and 350 milliliters of water. The mixture was heated to 60° Centigrade and cooled again to 0° Centigrade, whereupon 130 grams of sodium nitrite dissolved in 330 milliliters of water were added dropwise while the temperature was kept below 4° Centigrade. The reaction mixture was then left standing for 30 minutes while stirring and keeping the temperature at 0° centigrade. Then the mixture containing the diazonium compound formed was added at 60° Centigrade to a solution of 330 grams of potassium ethylxanthate in 400 milliliters of water. CAUTION ! At temperature below 60° Centigrade there may be risk of violent explosions due to accumulation of a diazoxanthate. After the addition has been completed the mixture was stirred for 30 minutes at 60° Centigrade, cooled and extracted with ether. The ether phase was separated and washed successively with 2N sodium hydroxide solution and water and evaporated. The residue was dissolved in 1 liter of 96% ethanol, and 400 grams of potassium hydroxide were added cautiously under reflux, whereupon the reaction mixture was refluxed for 18 hours. Water was added and the ethanol evaporated. 600 milliliters of concentrated hydrochloric acid and 50 grams of zink were added and the mixture steam distilled. The distillate was extracted with ether, the ether phase separated, washed with water, dried over anhydrous magnesium sulphate and evaporated. The residue was distilled at 35 mm Hg, whereby 160 grams of 2-bromo-5-fluorothiophenol boiling at 112°-116° Centigrade was obtained.

reactant | 2-bromo-5-fluoroaniline | 325 grams | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | sodium nitrite | 130 grams | N(=O)[O-].[Na+]
reactant | potassium ethylxanthate | 330 grams | C(C)OC(=S)[S-].[K+]
reactant | diazoxanthate | [N+](=[N-])=S=C(O)[S-]
solvent | hydrochloride | 300 milliliters | Cl | ClH
solvent | water | 350 milliliters | O | H2O
solvent | water | 330 milliliters | O | H2O
solvent | water | 400 milliliters | O | H2O
product | 2-bromo-5-fluorothiophenol | 160 grams | BrC1=C(C=C(C=C1)F)S | C6H4BrFS
